US08207208B2
Step B: (diethoxyphosphoryl)methyl 2-butyl-4-chloro-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate
The title compound was prepared by following step E in Example 13, except that the reagent [(methoxy{[(3S,3aS,6R,6aS)-6-(nitrooxy)hexahydrofuro[3,2-b]furan-3-yl]oxy}phosphoryl)oxy]methyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate was replaced by (diethoxyphosphoryl)methyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate. 1H NMR (500 MHz, CDCl3) δ 8.00 (dd, J=7.7, 1.3 Hz, 1H), 7.57 (t, J=7.4 Hz, 1H), 7.50 (td, J=7.6, 1.4 Hz, 1H), 7.44 (d, J=7.8 Hz, 1H), 7.12 (d, J=8.2 Hz, 2H), 6.87 (d, J=8.0 Hz, 2H), 5.45 (s, 2H), 4.48 (d, J=8.9 Hz, 2H), 4.11 (quintet, J=7.3 Hz, 4H), 2.71 (t, J=7.8 Hz, 2H), 1.73 (quintet, J=7.7 Hz, 2H), 1.39 (sextet, J=7.4 Hz, 2H), 1.30 (t, J=7.1 Hz, 6H), 0.90 (t, J=7.5 Hz, 3H); LC-MS: m/z 587.1 (M+H).

reactant | [(methoxy{[(3S,3aS,6R,6aS)-6-(nitrooxy)hexahydrofuro[3,2-b]furan-3-yl]oxy}phosphoryl)oxy]methyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate | C(CCC)C=1N(C(=C(N1)Cl)C(=O)OCOP(=O)(O[C@@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O[N+](=O)[O-])OC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C49H47ClN7O11P
reactant | (diethoxyphosphoryl)methyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate | C(CCC)C=1N(C(=C(N1)Cl)C(=O)OCP(=O)(OCC)OCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H46ClN6O5P
product | (diethoxyphosphoryl)methyl 2-butyl-4-chloro-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate | C(CCC)C=1N(C(=C(N1)Cl)C(=O)OCP(=O)(OCC)OCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C27H32ClN6O5P
